US04760168
Methyl acrylamidoglycolate, as prepared in Example I, in the amount of 100 parts (0.63 mole) is combined with 200 parts of methanol (6.3 moles), 0.10 parts of the methyl ether of hydroquinone and 0.005 part of ethylene-diamine tetraacetic acid and 5.0 parts of a 40% aqueous solution of paratoluenesulfonic acid is added as catalyst. The reaction mixture is heated for 4 hours at reflux temperature and then cooled and filtered. Vacuum stripping of the methanol results in crystallization of the product. An 85% yield of methyl acrylamidoglycolate methyl ether is obtained.

reactant | Methyl acrylamidoglycolate | C(C=C)(=O)NC(C(=O)OC)O | C6H9NO4
reactant | methanol | 6.3 moles | CO | CH4O
reactant | methyl ether | COC | C2H6O
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | ethylene-diamine tetraacetic acid | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
product | methyl acrylamidoglycolate methyl ether | 85% yield | COC(C(=O)OC)NC(C=C)=O | C7H11NO4
